US08383821B2
3-Bromo-5-(bromomethyl)-4′-fluorobiphenyl.
(5-Bromo-4′-fluorobiphenyl-3-yl)methanol (0.42 g, 1.5 mmol) and triphenylphosphine (0.78 g, 2.98 mmol) were combined in tetrahydrofuran (8 mL) and cooled to 0° C. N-Bromosuccinimide (0.59 g, 3.1 mmol) was introduced in portions and the reaction allowed to warm to room temperature. After 16 h, the reaction mixture was diluted with ethyl acetate, washed with concentrated sodium bicarbonate (2×), then brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (5% ethyl acetate/hexanes) gave 0.4 g (78%) as a white powder. 1H-NMR (CDCl3, 500 MHz) 7.60 (m, 1H), 7.50-7.54 (m, 3H), 7.47 (m, 1H), 7.12-7.15 (m, 2H), 4.47 (s, 2H).

reactant | (5-Bromo-4′-fluorobiphenyl-3-yl)methanol | 1.5 mmol, 0.42 g | BrC=1C=C(C=C(C1)C1=CC=C(C=C1)F)CO | C13H10BrFO
reactant | triphenylphosphine | 2.98 mmol, 0.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-Bromosuccinimide | 3.1 mmol, 0.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-(bromomethyl)-4′-fluorobiphenyl | BrC=1C=C(C=C(C1)CBr)C1=CC=C(C=C1)F | C13H9Br2F
